US07348318B2
Synthesis of (3S, P (SR))-3-amino-1-amino(cyclohexanecarbonylamino)phosphinyl-2-piperidone
Palladium black (50.0 mg) was added to a solution of (3S, P (SR))-3-benzyloxycarbonylamino-1-amino(cyclohexanecarbonylamino)phosphinyl-2-piperidone (250.2 mg, 0.5733 mmol) in ethanol (6 mL), and the resulting mixture was stirred at room temperature for 16 hours under a hydrogen atmosphere.

reactant | 3-benzyloxycarbonylamino-1-amino(cyclohexanecarbonylamino)phosphinyl-2-piperidone | 0.5733 mmol, 250.2 mg | C(C1=CC=CC=C1)OC(=O)NC1(C(N(CCC1)N)=O)P(=O)NC(=O)C1CCCCC1 | C20H29N4O5P
solvent | ethanol | 6 mL | C(C)O | C2H6O
catalyst | Palladium black | 50.0 mg | [Pd] | Pd
product | 3-amino-1-amino(cyclohexanecarbonylamino)phosphinyl-2-piperidone | NC1(C(N(CCC1)N)=O)P(=O)NC(=O)C1CCCCC1 | C12H23N4O3P
